US08084448B2
C. 2-Benzyloxy-4-trifluoromethylphenylamine
To a solution of 2-benzyloxy-1-nitro-4-trifluoromethylbenzene (1.0 g. 3.4 mmol) in 16 mL HOAc/EtOH (1:3) is added iron powder and the mixture is refluxed for 2 h. The mixture is cooled to RT and water is added and it is extracted with EtOAc. The organic phase is dried over sodium sulfate and the solvent removed under reduced pressure to give the title compound as a reddish oil.

reactant | 2-benzyloxy-1-nitro-4-trifluoromethylbenzene | 3.4 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C14H10F3NO3
reactant | water | O | H2O
solvent | HOAc EtOH | 16 mL | CC(=O)O.CCO
catalyst | iron | [Fe] | Fe
product | 2-Benzyloxy-4-trifluoromethylphenylamine | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(F)(F)F)N | C14H12F3NO
